US09227978B2
Methyl 5-acetamido-2-chloro-4-methoxybenzoate
To a mixture of methyl 5-amino-2-chloro-4-methoxybenzoate (3.6 g, 16.7 mmol), Et3N (6.7 g, 66.8 mmol) and DCM (100 mL) at RT, acetyl chloride (1.57 g, 20.1 mmol) was added dropwise and the resulting mixture was stirred for 12 h. The reaction mixture was partitioned between dichloromethane and water. The organic layer was washed with saturated NaHCO3 solution and brine, dried over anhydrous Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (ethyl acetate/petroleum ether=1:1) to afford the desired product (2.7 g, 63% yield).

reactant | methyl 5-amino-2-chloro-4-methoxybenzoate | 16.7 mmol, 3.6 g | NC=1C(=CC(=C(C(=O)OC)C1)Cl)OC | C9H10ClNO3
reactant | Et3N | 66.8 mmol, 6.7 g | CCN(CC)CC | C6H15N
reactant | acetyl chloride | 20.1 mmol, 1.57 g | C(C)(=O)Cl | C2H3ClO
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | Methyl 5-acetamido-2-chloro-4-methoxybenzoate | 2.7 g, 63% yield | C(C)(=O)NC=1C(=CC(=C(C(=O)OC)C1)Cl)OC | C11H12ClNO4
